US09084794B2
b) 9-(1-(4-bromo-2-fluorophenyl)ethyl)-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one
A solution of 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride (2.483 mmol) in N,N-dimethylformamide (10 mL) was treated with potassium carbonate (7.45 mmol) and 4-bromo-1-(1-bromoethyl)-2-fluorobenzene (2.483 mmol). The reaction was stirred at room temperature for three days. The solution was diluted with water (200 mL) and was extracted three times with ethyl acetate. The organic layers were combined, washed with brine (five times), dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound as a yellow oil (1.01 g, 89%). MS(ES)+ m/e 411.0/412.9 [M+H]+ (bromide isotope pattern).

reactant | 4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one hydrochloride | 2.483 mmol | Cl.C1(CC1)N1C(COC2(C1)CCNCC2)=O
reactant | potassium carbonate | 7.45 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-1-(1-bromoethyl)-2-fluorobenzene | 2.483 mmol | BrC1=CC(=C(C=C1)C(C)Br)F | C8H7Br2F
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | 9-(1-(4-bromo-2-fluorophenyl)ethyl)-4-cyclopropyl-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 1.01 g, 89% | BrC1=CC(=C(C=C1)C(C)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H24BrFN2O2
